US04299846
1,8-dihydroxy-10-butyryl-9-anthrone.
28.6 g (0.27 moles) butyryl chloride is added, while stirring, to a mixture containing 50.9 g (0.225 moles) anthraline in 1575 ml benzene and 27.5 ml pyridine. The reaction mixture is cooked using a return condenser for 10 hours while stirring. The solution is filtered and the filrate is evaporated dry under a lowered pressure. The residue is crystallized out from acetic acid. Yield 17.0 g (25.5% of the theoretical).

reactant | butyryl chloride | 0.27 moles, 28.6 g | C(CCC)(=O)Cl | C4H7ClO
reactant | anthraline | 0.225 moles, 50.9 g | C=1C=C2C(=C(C1)O)C(=O)C3=C(C=CC=C3O)C2 | C14H10O3
solvent | benzene | 1575 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 27.5 ml | N1=CC=CC=C1 | C5H5N
product | 1,8-dihydroxy-10-butyryl-9-anthrone | OC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)O)C(CCC)=O | C18H16O4
